US06251911B1
A mixture of 200 mg (0.521 mmol) of 3-(4-aminomethyl-phenylamino)-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine hydrate, 0.061 ml (0.548 mmol) of butyl isocyanate and 5 ml of THF is stirred at 20° C. for 15 hours and then concentrated by evaporation in vacuo. The residue is digested in 5 ml of boiling methanol, cooled to 5° C. and filtered, yielding 3-[4-(n-butylamino-carbonylamino-methyl)-phenylamino]-4-(3-chloro-phenyl-amino)-1H-pyrazolo[3,4-d]pyrimidine; m.p. 217-218° C.

reactant | 3-(4-aminomethyl-phenylamino)-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine hydrate | 0.521 mmol, 200 mg | O.NCC1=CC=C(C=C1)NC1=NNC2=NC=NC(=C21)NC2=CC(=CC=C2)Cl
reactant | butyl isocyanate | 0.548 mmol, 0.061 ml | C(CCC)N=C=O | C5H9NO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-[4-(n-butylamino-carbonylamino-methyl)-phenylamino]-4-(3-chloro-phenyl-amino)-1H-pyrazolo[3,4-d]pyrimidine | C(CCC)NC(=O)NCC1=CC=C(C=C1)NC1=NNC2=NC=NC(=C21)NC2=CC(=CC=C2)Cl | C23H25ClN8O
